US04710573
A solution of 15.0 g of 4-(2,4-difluorobenzoyl)-1-acetylpiperidine, 6.9 g of hydrazine hydrate and 140 ml of ethanol was heated under reflux for 4 hrs. The ethanol was removed in vacuo to give a solid. The solid was triturated with water, filtered and dried to yield 12.5 g (64%) of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine hydrazone, mp 139°-142° C.

reactant | 4-(2,4-difluorobenzoyl)-1-acetylpiperidine | 15.0 g | FC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)F | C14H15F2NO2
reactant | hydrazine hydrate | 6.9 g | O.NN
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine hydrazone | 12.5 g, 64% | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=NN | C14H17F2N3O
